US06410584B1
2,4-Dichlorobenzyl chloride (23.45 g) and potassium iodide (47.88 g) are stirred in acetone (100 ml) at room temperature for 24 hours. After concentrated, this is extracted with t-butyl methyl ether (300 ml) and water (100 ml). The extract is washed with water, dried and concentrated to obtain 2,4-dichlorobenzyl iodide (34.49 g).

reactant | 2,4-Dichlorobenzyl chloride | 23.45 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | potassium iodide | 47.88 g | [I-].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2,4-dichlorobenzyl iodide | 34.49 g | ClC1=C(CI)C=CC(=C1)Cl | C7H5Cl2I
